US09216980B2
Preparation of 5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)thiazole
A mixture of 5-bromothiazole (0.54 mL, 6.1 mmol), bis(pinacolato)diboron (1.56 g, 6.1 mmol), 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (250 mg, 0.3 mmol), and potassium acetate (1.8 g, 18.3 mmol) in 1,4-dioxane (20 mL) was heated at 100° C. for 12 h. The cooled reaction mixture was diluted with DCM (50 mL) and washed with water (15 mL). The organic phase was separated, dried over sodium sulfate, filtered and evaporated in vacuo. The resultant residue was purified by flash chromatography through a thin pad of silica eluting with DCM to afford the title compound as a brown solid which was used without further purification.

reactant | 5-bromothiazole | 6.1 mmol, 0.54 mL | BrC1=CN=CS1 | C3H2BrNS
reactant | bis(pinacolato)diboron | 6.1 mmol, 1.56 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 18.3 mmol, 1.8 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)thiazole | CC1(OB(OC1(C)C)C1=CN=CS1)C | C9H14BNO2S
